US04414390
To a mixture of 6-amino-8-methoxy-3,4-dihydrocarbostyril (12 g), concentrated hydrochloric acid (16 ml) and water (50 ml) was added ice (30 g), and sodium nitrite (5 g) and water (20 ml) were added gradually to the resulting mixture under ice-cooling. After completion of addition, the resulting mixture was reacted at 0° to 5° C. for 1 hour. On the other hand, a heated solution of acetaldehyde semicarbazide (10 g) in water (50 ml) and then sodium sulfite (0.25 g) and copper sulfate (3.2 g) were added to a solution of sodium acetate (34 g) in water (40 ml), and the internal bath was adjusted to a temperature of 10° to 20° C. The solution was stirred and below the surface of the solution was added gradually a solution prepared by adding a solution of sodium acetate (26 g) in water (46 ml) to the above diazonium salt solution. After stirring was continued for 2 hours, the reaction was allowed to stand for one night. Precipitates which formed were collected by filtration and washed with water. They were added in 200 ml of 2 N hydrochloric acid and the mixture was refluxed for 2 hours. After cooling, the reaction mixture was extracted with chloroform (150 ml) twice and the chloroform layer was washed with water. The solution was filtered through a short column charged with silica gel-activated carbon. This column was washed with 500 ml of chloroform. The two chloroform layers were combined and chloroform was evaporated. The residue was recrystallized from benzene to give 5.1 g of 6-acetyl-8-methoxy-3,4-dihydrocarbostyril.

reactant | 6-amino-8-methoxy-3,4-dihydrocarbostyril | 12 g | NC=1C=C2CCC(NC2=C(C1)OC)=O | C10H12N2O2
reactant | hydrochloric acid | 16 ml | Cl | ClH
reactant | sodium nitrite | 5 g | N(=O)[O-].[Na+]
reactant | acetaldehyde semicarbazide | 10 g | NNC(=O)N.C(C)=O
reactant | sodium acetate | 34 g | C(C)(=O)[O-].[Na+]
reactant | sodium acetate | 26 g | C(C)(=O)[O-].[Na+]
solvent | water | 50 ml | O | H2O
solvent | water | 40 ml | O | H2O
solvent | water | 46 ml | O | H2O
catalyst | copper sulfate | 3.2 g | S(=O)(=O)([O-])[O-].[Cu+2]
catalyst | sodium sulfite | 0.25 g | S(=O)([O-])[O-].[Na+].[Na+]
solvent | water | 20 ml | O | H2O
solvent | water | 50 ml | O | H2O
product | 6-acetyl-8-methoxy-3,4-dihydrocarbostyril | 5.1 g | C(C)(=O)C=1C=C2CCC(NC2=C(C1)OC)=O | C12H13NO3
